US04057537
[Curing a 75/25, L-(-)-Lactide/Epsilon Caprolactone Copolymer in the Presence of a Cross-Linking Agent]
The procedure of Example IX is repeated except that 4 grams of a cross-linking agent, i.e., 1,6-hexanediol dimethacrylate, is also blended with the L-(-)-lactide, epsilon caprolactone and dibenzoyl peroxide. These materials blend easily and upon molding and curing form clear, colorless sheets. The sheets thus formed have a tensile strength of 1550 psi; the total elongation is 380 percent; the initial elastic modulus is 783; and the rebound value (ASTM-D-2632) is 38 percent. The cured specimens are noticeably less swollen in benzene than similar sheets of Example IX.

reactant | 1,6-hexanediol dimethacrylate | C(C(=C)C)(=O)OCCCCCCOC(C(=C)C)=O | C14H22O4
reactant | L-(-)-lactide | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | epsilon caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | L-(-)-Lactide Epsilon Caprolactone | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(CCCCCO1)=O | InChI=1S/C6H8O4.C6H10O2/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6/h3-4H,1-2H3;1-5H2/t3-,4-;/m0./s1
